US05560814
Preparation of N-allyl-S-(3-carboxy-2-butenyl)thiouronium bromide
Example 1 was repeated with N-allylthiourea and 4-bromo-2-methylcrotonic acid, affording the title compound in a yield of 70%.

reactant | N-allylthiourea | C(C=C)NC(=S)N | C4H8N2S
reactant | 4-bromo-2-methylcrotonic acid | BrC/C=C(/C(=O)O)\C | C5H7BrO2
product | N-allyl-S-(3-carboxy-2-butenyl)thiouronium bromide | yield of 70% | [Br-].C(C=C)[NH+]=C(SCC=C(C)C(=O)O)N | InChI=1S/C9H14N2O2S.BrH/c1-3-5-11-9(10)14-6-4-7(2)8(12)13;/h3-4H,1,5-6H2,2H3,(H2,10,11)(H,12,13);1H
